US04826982
2-Bromo-3-chloro-4-fluoro-6-nitroaniline
Into a solution of 3-chloro-4-fluoro-6-nitroaniline (200.3 g) in acetic acid (1.5 litter) was added bromine (339 g) during a period of 80 minutes at 50° C. under stirring and stirred for further 2 hours. The reaction mixture was poured into ice water (3 litter) and the resulting precipitate was collected by filtration, washed with water and added to a mixture of concentrated hydrochloric acid (300 ml) and ethanol (1.2 litter). The mixture was refluxed for 8.5 hrs. After cooling, the precipitate was collected by filtration and washed with water and dried. The title compound thus obtained weighed 235.6 g as yellow needles, mp 146°-147° C.

reactant | 3-chloro-4-fluoro-6-nitroaniline | 200.3 g | ClC=1C=C(N)C(=CC1F)[N+](=O)[O-] | C6H4ClFN2O2
reactant | bromine | 339 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Bromo-3-chloro-4-fluoro-6-nitroaniline | BrC1=C(N)C(=CC(=C1Cl)F)[N+](=O)[O-] | C6H3BrClFN2O2
